US08754103B2
To a microwave reaction tube was added 6-chloro-3-isopropyl-[1,2,4]triazolo[4,3-b]pyridazine prepared as described in Step 1 above (1.28 mmole), 2-methyl-4-(trifluoromethoxy)phenylboronic acid (1.40 mmole), tetrakis(triphenylphosphine)palladium (0.064 mmole), 2M Na2CO3 (1 mL), and DMF (3 mL). The resulting reaction mixture was heated in the microwave at 130 C for 10 min. The reaction mixture was diluted with ethyl acetate and filtered through celite. The filtrate was washed with water. The organic extract was dried over Na2SO4 and evaporated in vacuo. The crude residue was purified by preparative HPLC to afford 3-isopropyl-6-(2-methyl-4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 6-chloro-3-isopropyl-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(C)C | C8H9ClN4
reactant | 2-methyl-4-(trifluoromethoxy)phenylboronic acid | 1.40 mmole | CC1=C(C=CC(=C1)OC(F)(F)F)B(O)O | C8H8BF3O3
reactant | Na2CO3 | 2M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.064 mmole | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-isopropyl-6-(2-methyl-4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-b]pyridazine | C(C)(C)C1=NN=C2N1N=C(C=C2)C2=C(C=C(C=C2)OC(F)(F)F)C | C16H15F3N4O
